* X:\Dropbox (Politecnico di Torin)\mycommon\SpicePy\benchmark\VCCS_and_CCVS\VCCS_and_CCVS.ASC
V1 N001 0 10
R2 N002 N005 5
G1 N005 N002 N001 N002 2.6
R1 N002 N001 1
R3 N005 0 1
H1 N003 0 V1 3
R4 N004 N003 2
R5 N004 0 4
I1 0 N004 4.5
.op
.backanno
.end
