* E:\DROPBOX (POLITECNICO DI TORIN)\MYCOMMON\SPICEPY\BENCHMARK\dc_network.ASC
V1 N003 0 5
R1 N001 N003 10
R2 N001 N002 5
R3 N001 0 2
V2 N002 0 15
I1 N002 N001 2
.op
.backanno
.end
