* E:\DROPBOX (POLITECNICO DI TORIN)\MYCOMMON\SPICEPY\BENCHMARK\TRAN_NETWORK4\tran_network4.ASC
V1 N001 0 10
R1 N002 N001 10
L1 N003 N002 1m
C1 N003 0 1µ ic=-10
.tran 0 1.05e-3 0 1e-6 uic
.backanno
.end
