* Example of pulse source
V1 A 0 pulse(-1 1 0 0.005e-6 0.005e-6 10e-6 20e-6)
R1 A B 500e-3
L1 B C 1e-6
C1 C 0 25.33e-9
.tran 0.005e-6 30e-6
.plot v(A) v(C)